US07531532B2
4-(Pyrrolidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide (290 mg) was dissolved in tetrahydrofuran (7 ml) and methanol (7 ml) under a nitrogen atmosphere, and then 10% palladium carbon (139 mg) was added, followed by stirring under a hydrogen atmosphere for 10 hrs. The reaction mixture was filtered to remove the catalyst, and the catalyst was washed with methanol. The filtrate was concentrated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate). Fractions containing a target compound were concentrated to provide a crude product of 4-(pyrrolidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide (270 mg) as white foam.

reactant | 4-(Pyrrolidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide | 290 mg | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)CN2CCCC2)C=CC(=C1)[N+](=O)[O-] | C22H26FN5O4
reactant | methanol | 7 ml | CO | CH4O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 139 mg | [C].[Pd]
product | 4-(pyrrolidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide | 270 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)CN2CCCC2)C=C1)F | C22H28FN5O2
